US07541473B2
3.1. Preparation of 2-isopropylpyridine
A solution of 19.4 ml (0.17 mol) of 2-ethylpyridine in 100 ml of tetrahydrofuran was cooled to −20° C. and 125 ml of n-butyllithium (1.6M in hexane, 0.2 mol) were subsequently added while stirring. The mixture was allowed to come to room temperature, stirred for another one hour and subsequently cooled back down to −20° C. A solution of 18 ml (0.25 mol) of methyl iodide in 20 ml of tetrahydrofuran was then added at such a rate that the temperature remained at −20° C. The mixture was allowed to warm to room temperature, stirred for a further 14 hours and hydrolyzed with 60 ml of water. The organic phase was separated off and the aqueous phase was extracted three times with 50 ml each time of diethyl ether. The organic phases were combined, dried over magnesium sulfate, the magnesium sulfate was filtered off and the solvent was distilled off. The residue obtained in this way was distilled at 81-84° C./60 torr. This gave 10.88 g (53%) of 2-isopropylpyridine.

reactant | 2-ethylpyridine | 0.17 mol, 19.4 ml | C(C)C1=NC=CC=C1 | C7H9N
reactant | n-butyllithium | 0.2 mol, 1.6M, 125 ml | C(CCC)[Li]
reactant | methyl iodide | 0.25 mol, 18 ml | CI | CH3I
reactant | water | 60 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-isopropylpyridine | C(C)(C)C1=NC=CC=C1 | C8H11N
